US09169248B2
Synthesis of 2-[4-chloro-5-methyl-3-(trifluoromethyl)pyrazol-1-yl]-N-[1-(4-fluorophenyl)-5-isopropylpyrazol-4-yl]propanamide
To a solution of 1-(4-fluorophenyl)-5-isopropylpyrazol-4-amine (0.03 g, 0.14 mmol) in DMF (1.0 mL) was added 2-[4-chloro-5-methyl-3-(trifluoromethyl)pyrazol-1-yl]propanoic acid (0.035 g, 0.14 mmol), followed by diisopropylethylamine (0.042 g, 0.32 mmol) and HATU (0.057 g, 0.15 mmol). After stirring at room temperature for 1 h, the reaction was diluted with water and the aqueous layer was extracted with ethyl acetate (2×5 mL). The combined organic layers were washed with brine, dried (Na2SO4), filtered, and concentrated in vacuo. The resulting crude product was purified by reverse phase HPLC (C18 column, acetonitrile-H2O with 0.1% TFA as eluent) to give the title compound as a white solid (0.020 g, 0.044 mmol, 32%). 1H NMR (400 MHz, CDCl3) δ 8.18 (s, 1H), 8.02 (s, 1H), 7.34-7.24 (m, 2H), 7.21-7.11 (m, 2H), 5.05 (q, J=7.2 Hz, 1H), 3.03-2.91 (m, 1H), 2.38 (s, 3H), 1.90 (d, J=7.2 Hz, 3H), 1.25 (dd, J=13.9, 7.1 Hz, 3H), 1.08 (d, J=7.2 Hz, 3H); MS: (ES) m/z calculated for C20H20ClF4N5O [M+H]+ 458.1, found 457.9.

reactant | 1-(4-fluorophenyl)-5-isopropylpyrazol-4-amine | 0.14 mmol, 0.03 g | FC1=CC=C(C=C1)N1N=CC(=C1C(C)C)N | C12H14FN3
reactant | 2-[4-chloro-5-methyl-3-(trifluoromethyl)pyrazol-1-yl]propanoic acid | 0.14 mmol, 0.035 g | ClC=1C(=NN(C1C)C(C(=O)O)C)C(F)(F)F | C8H8ClF3N2O2
reactant | diisopropylethylamine | 0.32 mmol, 0.042 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HATU | 0.15 mmol, 0.057 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-[4-chloro-5-methyl-3-(trifluoromethyl)pyrazol-1-yl]-N-[1-(4-fluorophenyl)-5-isopropylpyrazol-4-yl]propanamide | 0.044 mmol, 0.020 g, 32% | ClC=1C(=NN(C1C)C(C(=O)NC=1C=NN(C1C(C)C)C1=CC=C(C=C1)F)C)C(F)(F)F | C20H20ClF4N5O
